US04302464
C. 1-(2-hydrazino-4-pyridyl)-1-ethylenedioxyethane
A mixture of 11.4 g. (57 mmoles) of 1-(2-chloro-4-pyridyl)-1-ethylenedioxyethane in 50 ml. of 98% hydrazine hydrate was heated to reflux for 15 hours. The mixture was cooled at 0° C. for 2 hours and the resulting precipitate was filtered and dried to give 10.3 g. (92%) of the desired compound. The analytical sample was recrystallized from toluene-cyclohexane.

reactant | 1-(2-chloro-4-pyridyl)-1-ethylenedioxyethane | 57 mmoles | ClC1=NC=CC(=C1)C1COCCO1 | C9H10ClNO2
reactant | hydrazine hydrate | O.NN
product | 1-(2-hydrazino-4-pyridyl)-1-ethylenedioxyethane | 92% | N(N)C1=NC=CC(=C1)C1COCCO1 | C9H13N3O2
